US07151105B2
Step 1: N′-Methylpyridine-2-carbohydrazonamide
This compound was prepared by a modification of a reported procedure (J. Het Chem. 1975, 12, 855): A 2-L, 3-necked round bottom flask was charged with 2-cyanopyridine (40 g, 0.384 mol), methylhydrazine (93.7 g, 5.3 equiv, 2.035 mol), and ethanol (200 mL). The reaction was stirred under N2, overnight at room temperature. An additional equiv of hydrazine was added (6.3 equiv cumulative total in reaction mixture) and stirred for an additional 2–3 h at room temperature. The EtOH and excess hydrazine were distilled off in vacuo to afford a yellow crystalline solid. The yellow solid was triturated with benzene, affording a slurry of white crystals. The crystals were filtered, washed with a minimal amount of benzene and dried overnight in a vacuum oven at 50° C. The reaction yielded 41.33 g (71.6%) of the product as white crystals. 1H NMR (300 MHz, CDCl3): δ 2.97 (s, 3H), 4.02 (br s, 1H), 5.30 (br s, 1H), 7.20 (m, 1H), 7.66 (m, 1H), 8.08 (m, 1H), 8.45 (m, 1H). MS (APCI) calcd for C7H10N4: 150.09, found (M+H+): 151.3

reactant | 2-cyanopyridine | 0.384 mol, 40 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | methylhydrazine | 2.035 mol, 93.7 g, 5.3 equiv | CNN | CH6N2
reactant | hydrazine | NN | H4N2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N′-Methylpyridine-2-carbohydrazonamide | 41.33 g, 71.6% | CNN=C(N)C1=NC=CC=C1 | C7H10N4
